### PR TITLE
arm+arm-hyp spec+proofs: use UserContext datatype like other arches

### PR DESCRIPTION
**Pull request by Xaphiosis**
This reduces the diff to other architectures and FPU versions by having a UserContext datatype that contains the register state, instead of assuming the context is only the state of the registers.

Some of this touches old proofs and fitting in with style is wonky. Thoughts welcome.
This will break the FPU Arm platform port proofs, but once fixed the diff will be smaller.
Will squash commits to the above commit message (and same header as this PR) once people are ok with the changes.

### CODE REVIEW

File: proof/refine/ARM/CNodeInv_R.thy [hunk 1]
```diff
@@ -5241,6 +5241,11 @@ lemma invalid_Thread_CNode:
   apply (clarsimp simp: obj_at'_def projectKOs)
   done
 
+(* FIXME MOVE *)
+lemma all_Not_False[simp]:
+  "All Not = False"
+  by blast
+
```
Comment (lsf37) [inline proof/refine/ARM/CNodeInv_R.thy:5248]: Have you tried if moving this to somewhere in Lib breaks stuff? It looks like a generally useful thing we should always have in scope.

File: proof/crefine/ARM_HYP/SyscallArgs_C.thy [hunk 2]
```diff
@@ -1220,7 +1220,10 @@ lemma getSyscallArg_ccorres_foo:
      apply (simp add: word_less_nat_alt split: if_split)
     apply (rule ccorres_add_return2)
     apply (rule ccorres_symb_exec_l)
-       apply (rule_tac P="\<lambda>s. n < unat (scast n_msgRegisters :: word32) \<and> obj_at' (\<lambda>tcb. atcbContextGet (tcbArch tcb) (ARM_HYP_H.msgRegisters!n) = x!n) (ksCurThread s) s"
+       apply (rule_tac P="\<lambda>s. n < unat (scast n_msgRegisters :: word32)
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/SyscallArgs_C.thy:1223]: Should this one be `word32` or `machine_word`?

File: proof/crefine/ARM_HYP/IsolatedThreadAction.thy [hunk 3]
```diff
@@ -212,36 +213,49 @@ lemma isolate_thread_actions_asUser:
...
   apply (case_tac ko, simp)
+  apply (rename_tac uc)
+  apply (case_tac uc, simp add: modify_registers_def atcbContextGet_def atcbContextSet_def)
   done
 
-context begin interpretation Arch . (*FIXME: arch_split*)
-
 lemma getRegister_simple:
-  "getRegister r = (\<lambda>con. ({(con r, con)}, False))"
+  "getRegister r = (\<lambda>con. ({(user_regs con r, con)}, False))"
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/IsolatedThreadAction.thy:221]: Had forgotten that we did these monad unfoldings here. Those are going to bite when we move to the concurrency monad, but that's a problem for future us. Nothing to do with this PR in any case.

File: proof/crefine/ARM/SyscallArgs_C.thy [hunk 4]
```diff
@@ -1186,7 +1187,10 @@ lemma getSyscallArg_ccorres_foo:
      apply (simp add: word_less_nat_alt split: if_split)
     apply (rule ccorres_add_return2)
     apply (rule ccorres_symb_exec_l)
-       apply (rule_tac P="\<lambda>s. n < unat (scast n_msgRegisters :: word32) \<and> obj_at' (\<lambda>tcb. atcbContextGet (tcbArch tcb) (ARM_H.msgRegisters!n) = x!n) (ksCurThread s) s"
+       apply (rule_tac P="\<lambda>s. n < unat (scast n_msgRegisters :: word32)
```
Comment (lsf37) [inline proof/crefine/ARM/SyscallArgs_C.thy:1190]: machine_word? (same as on ARM_HYP)

File: proof/crefine/ARM/ADT_C.thy [hunk 5]
```diff
@@ -116,26 +116,24 @@ end
...
-lemma ccontext_rel_to_C:
-  "ccontext_relation uc (to_user_context_C uc)"
-  apply (clarsimp simp: ccontext_relation_def to_user_context_C_def)
-  apply (rule arg_cong [where f=uc])
-  apply (simp add: register_to_H_def inv_def)
-  done
-
-end
+  "to_user_context_C uc \<equiv>
+    user_context_C (ARRAY r. user_regs uc (register_to_H (of_nat r)))"
```
Comment (lsf37) [inline proof/crefine/ARM/ADT_C.thy:125]: 👍 for `ARRAY` over `FCP`

**Review by lsf37 — APPROVED** [review]
Nice, this is a step in the right direction for making things more generic.

File: proof/crefine/ARM_HYP/SyscallArgs_C.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/crefine/ARM_HYP/SyscallArgs_C.thy:1223]: I have no idea. It's casting `n_msgRegisters` which is an `int` due to being an enumeration, so that's `32 signed word` ... then it's trying to do a `unat`, so it's casting the `signed` away with `scast`, so technically that's to `32 word` or whatever we call it on other arches (`int_len word`?), which is 32 even on 64 bit arches? Then again `machine_word` is a suitably large word to carry it, so it seems arbitrary in this case. Since you pointed it out, what do you think? :)

File: proof/refine/ARM/CNodeInv_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/ARM/CNodeInv_R.thy]: I'm going to do that now. Since I can't access pcr I'll use the PR check to see if/where it fails.

File: proof/crefine/ARM_HYP/SyscallArgs_C.thy (hunk 2 above)
Comment (lsf37) [reply proof/crefine/ARM_HYP/SyscallArgs_C.thy:1223]: I was mostly checking if you had thought about it. If it's not really tied to machine_word it's fine to leave as is. We'll get to think properly about this bit when we attempt splitting in Refine

File: proof/refine/ARM/TcbAcc_R.thy [hunk 6]
```diff
@@ -4221,34 +4255,34 @@ proof -
 
   show ?thesis using m
     unfolding setMRs_def set_mrs_def
-    apply (clarsimp simp: arch_tcb_set_registers_def arch_tcb_get_registers_def cong: option.case_cong split del: if_split)
+    apply (clarsimp  cong: option.case_cong split del: if_split)
```
Comment (corlewis) [inline proof/refine/ARM/TcbAcc_R.thy:4258]:
```suggestion
    apply (clarsimp cong: option.case_cong split del: if_split)
```

File: proof/refine/ARM_HYP/TcbAcc_R.thy [hunk 7]
```diff
@@ -4272,34 +4306,34 @@ proof -
 
   show ?thesis using m
     unfolding setMRs_def set_mrs_def
-    apply (clarsimp simp: arch_tcb_set_registers_def arch_tcb_get_registers_def cong: option.case_cong split del: if_split)
+    apply (clarsimp  cong: option.case_cong split del: if_split)
```
Comment (corlewis) [inline proof/refine/ARM_HYP/TcbAcc_R.thy:4309]:
```suggestion
    apply (clarsimp cong: option.case_cong split del: if_split)
```

File: proof/crefine/ARM/IsolatedThreadAction.thy [hunk 8]
```diff
@@ -233,6 +247,18 @@ lemma zipWithM_setRegister_simple:
                             simpler_modify_def fun_upd_def[symmetric])
   done
 
+(* these variant used in fastpath rewrite proof *)
```
Comment (corlewis) [inline proof/crefine/ARM/IsolatedThreadAction.thy:250]:
```suggestion
(* this variant used in the fastpath rewrite proof *)
```

File: proof/crefine/ARM/IsolatedThreadAction.thy [hunk 9]
```diff
@@ -233,6 +247,18 @@ lemma zipWithM_setRegister_simple:
...
+lemma setRegister_simple_modify_registers:
+  "setRegister r v = (\<lambda>con. ({((), modify_registers (\<lambda>f. f(r := v)) con)}, False))"
+  by (simp add: modify_registers_def setRegister_simple)
+
+(* these variant used in fastpath rewrite proof *)
```
Comment (corlewis) [inline proof/crefine/ARM/IsolatedThreadAction.thy:255]:
```suggestion
(* this variant used in the fastpath rewrite proof *)
```

File: proof/crefine/ARM_HYP/IsolatedThreadAction.thy (hunk 3 above)
Comment (corlewis) [reply proof/crefine/ARM_HYP/IsolatedThreadAction.thy:221]: I don't know anything about how they're used but I don't think that it will be hard to write a similar unfolding for the trace monad. It would be a bit fiddly if we couldn't make the function atomic but even that shouldn't be too bad.

File: proof/drefine/Schedule_DR.thy [hunk 10]
```diff
@@ -593,32 +593,39 @@ lemma schedule_dcorres:
...
   by (simp add: get_tcb_mrs_def Let_def arch_tcb_context_get_def)
 
 lemma transform_tcb_NextIP:
-  "transform_tcb m t (tcb_arch_update (tcb_context_update (\<lambda>ctx. ctx(NextIP:= pc))) tcb)
+  "transform_tcb m t (tcb_arch_update (tcb_context_update
+                                            (\<lambda>ctx. UserContext ((user_regs ctx)(NextIP := pc)))) tcb)
   = transform_tcb m t tcb"
+  apply (rule ext)
+  apply (simp add: transform_tcb_def transform_full_intent_def Let_def)
+
```
Comment (corlewis) [inline proof/drefine/Schedule_DR.thy:628]: Unintended newline?

**Review by corlewis — APPROVED** [review]
Very nice, definitely good to see more consistency!

File: proof/crefine/ARM/IsolatedThreadAction.thy (hunk 9 above)
Comment (Xaphiosis) [reply proof/crefine/ARM/IsolatedThreadAction.thy:255]: I was trying to say this one and `zipWithM_setRegister_simple_modify_registers` are used for the fastpath rewrite proof, so at least I tried to write "these variants" but clearly only made it halfway. Do you think the same comment above both then, or could people infer that the `_modify_registers` variants are related?

File: proof/refine/ARM/CNodeInv_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/ARM/CNodeInv_R.thy]: This causes a bunch of failure, might want to do it separately.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/ARM/TcbAcc_R.thy]: done

File: proof/refine/ARM_HYP/TcbAcc_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/TcbAcc_R.thy]: done

File: proof/drefine/Schedule_DR.thy (hunk 10 above)
Comment (Xaphiosis) [reply proof/drefine/Schedule_DR.thy]: well spotted, fixed

File: spec/machine/ARM/MachineOps.thy [hunk 11]
```diff
@@ -495,19 +495,20 @@ definition
...
-where
-  "getRegister r \<equiv> gets (\<lambda>uc. uc r)"
+definition getRegister :: "register \<Rightarrow> machine_word user_monad" where
+  "getRegister r \<equiv> gets (\<lambda>s. user_regs s r)"
 
 definition
-  setRegister :: "register \<Rightarrow> machine_word \<Rightarrow> unit user_monad"
-where
-  "setRegister r v \<equiv> modify (\<lambda>uc. uc (r := v))"
+  "modify_registers f uc \<equiv> UserContext (f (user_regs uc))"
```
[the remark this answers is not in the document]
Comment (Xaphiosis) [reply spec/machine/ARM/MachineOps.thy:508]: will fix

File: proof/crefine/ARM_HYP/SyscallArgs_C.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/crefine/ARM_HYP/SyscallArgs_C.thy:1223]: ok, will leave it for now

File: spec/machine/ARM/MachineOps.thy (hunk 11 above)
[the remark this answers is not in the document]
Comment (Xaphiosis) [reply spec/machine/ARM/MachineOps.thy:508]: done

**Comment by Xaphiosis** [comment]
Squashed commits down to 1 and hopefully addressed all PR feedback. Will now wait for tests to make sure I didn't mess something up.
